US05914328
99a 3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)-5-cyan-pyridine-N-oxide
A sample of 3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)-5bromo-pyridine-N-oxide, from Example 98a above, is reacted with sodium cyanide in DMF and water according to standard procedures. The solvents are removed, and the product is extracted, then purified by chromatography on silica gel.

reactant | 3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)-5bromo-pyridine-N-oxide | CN1[C@@H](CCC1)COC=1C=[N+](C=C(C1)Br)[O-] | C11H15BrN2O2
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)-5-cyan-pyridine-N-oxide | CN1[C@@H](CCC1)COC=1C=[N+](C=C(C1)C#N)[O-] | C12H15N3O2
